US08614328B2
A solution of 3-(5-chloro-thiophen-2-ylmethoxy)-phthalic acid dimethyl ester (2.3 g, 6.7 mmol) in reagent alcohol (100 mL) and 3 N sodium hydroxide (60 mL) was refluxed for two hours. The solution was evaporated and the residue was dissolved in water (100 mL) and washed with methylene chloride (3×100 mL) then acidified to pH around 4. The resulting mixture was extracted with ethyl acetate (2×100 mL) and the combined organic layers was washed with water (2×100 mL), dried and concentrated to give 3-(5-chloro-thiophen-2-ylmethoxy)-phthalic acid as an off-white solid (1.6 g, 76% yield). The product was used in the next step without further purification.

reactant | 3-(5-chloro-thiophen-2-ylmethoxy)-phthalic acid dimethyl ester | 6.7 mmol, 2.3 g | COC(C=1C(C(=O)OC)=C(C=CC1)OCC=1SC(=CC1)Cl)=O | C15H13ClO5S
solvent | sodium hydroxide | 3 N, 60 mL | [OH-].[Na+]
product | 3-(5-chloro-thiophen-2-ylmethoxy)-phthalic acid | 1.6 g, 76% yield | ClC1=CC=C(S1)COC1=C(C(C(=O)O)=CC=C1)C(=O)O | C13H9ClO5S
